US08580785B2
a) Preparation of 3-chloro-2-fluoro-4-methylamino-5-nitro-benzoic acid
A suspension of 5 g (21.05 mmol) of 3-chloro-2,4-difluoro-5-nitro-benzoic acid (known from WO 03/077914) in 50 mL of H2O is cooled to a temperature of 0° C. Then 5.86 ml (42.10 mmol) of triethylamine were added dropwise followed by the dropwise addition of 1.82 ml (21.05 mmol) of methylamine (40% in H2O). After 30 min of stirring at 0° C., 0.18 ml (2.11 mmol) of methylamine (40% in H2O) is added and the mixture is stirred again during 30 min at a temperature of 0° C. The pH of the mixture is adjusted to 1-0.5 by the addition of concentrated HCl at a temperature of 0° C. The product is extracted with tert-butyl methyl ether (2 times) and the organic phase is washed once with brine, dried on Na2SO4, filtrated and the solvent is evaporated. 5.35 g (21.52 mmol, 102%) of a crude yellow solid were obtained and used directly in the next step without purification. LC/MS: 247/249 (M−1)−.

reactant | 3-chloro-2,4-difluoro-5-nitro-benzoic acid | 21.05 mmol, 5 g | ClC=1C(=C(C(=O)O)C=C(C1F)[N+](=O)[O-])F | C7H2ClF2NO4
reactant | triethylamine | 42.10 mmol, 5.86 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine | 21.05 mmol, 1.82 ml | CN | CH5N
reactant | HCl | Cl | ClH
solvent | H2O | 50 mL | O | H2O
catalyst | methylamine | 2.11 mmol, 0.18 ml | CN | CH5N
product | 3-chloro-2-fluoro-4-methylamino-5-nitro-benzoic acid | 21.52 mmol, 5.35 g, 102% | ClC=1C(=C(C(=O)O)C=C(C1NC)[N+](=O)[O-])F | C8H6ClFN2O4
